US04710573
A solution of 5.0 g of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine, 1.2 g of methylhydrazine and 50 ml of n-butanol was heated under reflux for 16 hrs. After cooling, the solvent was removed in vacuo and the residue was diluted with water. The aqueous mixture was made basic with ammonium hydroxide and extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to yield 5.6 g of 3-(1-acetyl-4-piperidinyl)-6-fluoro-1-methyl-1H-indazole as an oil.

reactant | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine | 5.0 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C14H15F2NO2
reactant | methylhydrazine | 1.2 g | CNN | CH6N2
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 3-(1-acetyl-4-piperidinyl)-6-fluoro-1-methyl-1H-indazole | 5.6 g | C(C)(=O)N1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C | C15H18FN3O
